US07253286B2
6,7-Dimethoxy-4-((5-nitro-2-pyridyl)oxy)quinoline
6,7-Dimethoxy-1,4-dihydro-4-quinolinone (4.10 g, 20.0 mmol), 2-bromo-5-nitropyridine (4.46 g, 22.0 mmol) and potassium carbonate (5.53 g, 40.0 mmol) were heated and stirred at 70° C. for 3 hours in N,N-dimethylformamide (20 ml). The reaction solution was diluted with ethyl acetate, the insoluble portion was filtered off, and after washing with water and saturated brine and drying the organic layer over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent: ethyl acetate), and the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, after which the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (2.23 g, 6.81 mmol, 34%) as yellow crystals.

reactant | 6,7-Dimethoxy-1,4-dihydro-4-quinolinone | 20.0 mmol, 4.10 g | COC=1C=C2C(C=CNC2=CC1OC)=O | C11H11NO3
reactant | 2-bromo-5-nitropyridine | 22.0 mmol, 4.46 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | potassium carbonate | 40.0 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dimethoxy-4-((5-nitro-2-pyridyl)oxy)quinoline | 6.81 mmol, 2.23 g, 34% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H13N3O5
